US06319917B1
(d) 4-(N-tert-Butoxycarbonyl-N-methyl-amino)-5,5-diphenyl-pent-2-enoic acid ethyl ester
A solution of 14 ml (68 mmol) of phosphonoacetic acid triethyl ester in 130 ml of tetrahydrofuran is added at 0C to a solution of 3.7 g (84 mmol) of 55-65% sodium hydride dispersion (washed three times with pentane) in 130 ml of tetrahydrofuran. After 1 hour a solution of 13.6 g (40 mmol) of (1-formyl-2,2-diphenyl-ethyl)-methyl-carbamic acid tert-butyl ester in 130 ml of tetrahydrofuran is added dropwise thereto. After 4 hours the reaction mixture is rendered neutral with 1M potassium hydrogen sulfate and then diluted with water and ethyl acetate. The organic phase is washed three times with water, dried over magnesium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel using methylene chloride/methanol (99:1 to 98:2). The title compound is obtained in the form of a yellow oil. TLC: methylene chloride/methanol (98:2) Rf=0.45.

reactant | phosphonoacetic acid triethyl ester | 68 mmol, 14 ml | CCOC(=O)CP(=O)(OCC)OCC | C8H17O5P
reactant | sodium hydride | 84 mmol, 3.7 g | [H-].[Na+]
reactant | (1-formyl-2,2-diphenyl-ethyl)-methyl-carbamic acid tert-butyl ester | 40 mmol, 13.6 g | C(C)(C)(C)OC(N(C)C(C(C1=CC=CC=C1)C1=CC=CC=C1)C=O)=O | C21H25NO3
reactant | potassium hydrogen sulfate | 1M | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pentane | CCCCC | C5H12
product | 4-(N-tert-Butoxycarbonyl-N-methyl-amino)-5,5-diphenyl-pent-2-enoic acid ethyl ester | C(C)OC(C=CC(C(C1=CC=CC=C1)C1=CC=CC=C1)N(C)C(=O)OC(C)(C)C)=O | C25H31NO4
